data/mechanisms/records/IMS8-EQ8.7e.json
{"mechanism_id": "IMS8-EQ8.7e", "species": [{"species_id": "sec_butyl_cation", "mapped_smiles": "[CH3:1][CH:2]([1H:9])[CH+:3][CH3:4]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "vinyloxy_radical", "mapped_smiles": "[CH2:5]=[CH:6][O:7]", "role": "intermediate", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butene_radical_cation", "mapped_smiles": "[CH3:1][CH:2][CH+:3][CH3:4]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "acetaldehyde_neutral", "mapped_smiles": "[CH2:5]([1H:9])[CH:6]=[O:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_complex_2", "species_ids": ["sec_butyl_cation", "vinyloxy_radical"]}, {"state_id": "state_products", "species_ids": ["butene_radical_cation", "acetaldehyde_neutral"]}], "steps": [{"step_id": "step_intracomplex_h_transfer", "from_state": "state_complex_2", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 9]}, "target": {"type": "bond", "atom_maps": [5, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 9]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [5, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_intracomplex_h_transfer", "support_type": "textbook_proposed", "locator": {"page": 144, "equation": "8.7", "section": "8 / Detailed Mechanisms of Ion Fragmentation (Random or hidden rearrangements)"}, "confidence": 0.75, "curator_note": "Equation 8.7, row 3 (second bracketed ion-molecule complex -> separated products). Intra-complex hydrogen-atom transfer: the vinyloxy radical abstracts an H atom from the sec-butyl cation. Net H-atom transfer turns the sec-butyl cation into the but-2-ene radical cation C4H8+. (m/z 56) and the vinyloxy radical into neutral acetaldehyde CH3CHO. Book draws 4 arc(s): (1) the sec-butyl C-H attacking the vinyloxy terminal carbon = move 1; (2) the hook forming the butene double bond = move 2 (the book draws a full C=C; encoded here as the localized 1,2-distonic radical cation CH3-CH.-CH+-CH3 required for one-electron bookkeeping); (3) the vinyloxy C=C shifting toward the carbonyl = move 4; (4) the O odd-electron fishhook = move 5. Move 3 (the second electron completing the new C-H bond to the terminal carbon) is an implicit hook, not drawn as its own arc. DRAWN COMPLEX: reactant is the square-bracketed complex {sec-butyl cation, CH2=CH-O.}; encoded as two-species states since the complex is not a single mapped SMILES. DELOCALISATION: the page draws the butene product with a full C=C and '+.'; the localized distonic form CH3-CH.-CH+-CH3 is chosen so the arrows balance (RDKit cannot carry an overall radical cation on a closed C=C). The vinyloxy radical is drawn/encoded as the O-radical form CH2=CH-O. (same as bracket 2). Text: at LOW electron energy 'the C4H8+ ion predominates', consistent with this channel; IE(1-butene)=9.6 eV."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "low-energy electron ionization (ion-molecule complex)", "electron_energy_ev": null, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_56", "species_id": "butene_radical_cation", "step_id": "step_intracomplex_h_transfer", "observed_mz": 56.0621, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
